Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / adhesive tape
 
Attending: ___.
 
Chief Complaint:
Back pain
 
Major Surgical or Invasive Procedure:
___:
1. Anterior thoracic diskectomy, T12-L1, L1-L2.
2. Anterior thoracic fusion, T11-T12.
3. Anterior lumbar fusion, T12-L1.
4. Application of interbody biomechanical device, T11-T12,
    T12-L1.
.................................
___:
1. Exploration of fusion mass.
2. Removal and reinsertion of hardware.
3. Posterolateral arthrodesis revision, T10-T11, T11-T12
    and T12-L1.

 
History of Present Illness:
___ yo Female with scoliosis presents to ED with increasing pain 
and concern for broken spine implants.  Her scoliosis was 
intially operated on ___ at ___ with a 
thoracolumbar fusion.  She developed spinal pseudoarthrosis.  In 
___ it was noted on plain films that her right spinal 
rod was broken.  On ___, Dr. ___ operated to replace 
this rod, along with L4-L5 anterior lumbar fusion, and revision 
of L4-L5 hardware.  She had done well post-operatively but 
maintained a high narcotic requirment.  On ___, in clinic 
follow-up it was noted that she had a broken right rod.    Now, 
three days ago she was bending over at her house when she felt 
sharp pain very similiar to previous episodes of hardware 
failure. Since that time she reports that she has been in severe 
pain but without numbness/tingling, weakness, or bowel/bladder 
incontinence.  The pain is mainly in her lower back and radiated 
to anterior thighs.  She was determined to have hardware fatigue 
consistent with spinal nonunion at the thoracolumbar junction.   
She underwent evaluation including imaging which heightened 
suspicion of this nonunion diagnosis, and as such, she underwent 
conservative care.  Conservative care regimen was inadequate to 
reduce her symptoms to intolerable level, and symptoms were 
severe and interfering with activities of daily living and 
work-related activities including walking.  Due to the severity 
of her symptoms, and the refractory nature of the syndrome, as 
well as the natural history of this disorder, she elected to 
undergo surgical treatment.
 
Past Medical History:
PMHx: 
Arthitis/Gout  
HA  
Scoliosis  
Hiatal Hernia  
GERD  
Hepatitis C  
Asthma  
Anxiety  
.  
PSH:  
spinal fusion (ant/post) - ___ (Fractured rod in - ___, 
subsequent surgeries in ___ and ___ as above  
Breast lumpectomy  
Lap. cholecystectomy  
 
Social History:
___
Family History:
not relevant to current admission
 
Physical Exam:
On admission:
Physical Exam: 
97.2 108 104/69 18 99% 
General: NAD
Mental Status: AOx3
Back:  no step offs, mildline TTP over C7, T12/L1 

Vascular (R/L):
-Radial 2+/2+
-DP 2+/2+
-___ 2+/2+

Sensory (R/L):
-C5 (Ax) I/I
-C6 (MC) I/I
-C7 (Mid finger) I/I
-C8 (MACN) I/I
-L2 (Groin) I/I
-L3 (Knee) I/I
-L4 (Grt Toe) I/I
-S1 (Small Toe) I/I
-S2 (Post Thigh) I/I

Motor (R/L)
-C5 (Ax) ___
-C6 (MC) ___
-C6 (WE) ___
-C7 (Tri) ___
-C8 (AIN) ___
-L2 (Add) ___
-L3 (Quad) ___
-L4 (TA) ___
-L5 (___) ___
-S1 (SP) ___

Reflexes (R/L)
-Patellar 1+/1+
-Achilles 1+/1+

Babinski:  toes downgoing
Clonus: none
Perianal sensation: Patient Refused
Rectal tone:  Patient Refused
Estimated Level of Cooperation: limited secondary to pain
Estimated Reliability of Exam: somewhat reliable

On discharge:
VS 99.6 at 1600  98.0  100/66  80  18  95RA
Gen: NAD, walking in room
CV: RRR
Resp: CTAB
Abd: soft NT ND, hypoactive BS
Back: Inc x 2 C/D/I no TTP, no 
erythema/fluctuance/induration/oozing
Ext: warm, soft, NT NE
 
Pertinent Results:
___ 10:00PM BLOOD WBC-7.4 RBC-3.92* Hgb-12.9# Hct-35.7*# 
MCV-91 MCH-32.9* MCHC-36.1* RDW-13.3 Plt ___
___ 10:46AM BLOOD WBC-10.9 RBC-2.84* Hgb-9.2* Hct-25.8* 
MCV-91 MCH-32.3* MCHC-35.5* RDW-13.5 Plt ___
___ 10:46AM BLOOD Neuts-75.6* Lymphs-17.2* Monos-3.4 
Eos-3.5 Baso-0.2
___ 10:40AM BLOOD WBC-4.0 RBC-3.20* Hgb-10.5* Hct-31.2* 
MCV-98 MCH-32.7* MCHC-33.5 RDW-13.8 Plt ___
___ 10:40AM BLOOD Neuts-78.8* Lymphs-9.7* Monos-2.5 
Eos-8.7* Baso-0.3
___ 06:25AM BLOOD WBC-4.5 RBC-3.29* Hgb-10.7* Hct-30.6* 
MCV-93 MCH-32.5* MCHC-34.8 RDW-13.6 Plt ___
___ 06:25AM BLOOD Neuts-36.1* Lymphs-45.8* Monos-5.8 
Eos-12.0* Baso-0.3
___ 10:00PM BLOOD Glucose-89 UreaN-10 Creat-0.5 Na-139 
K-3.7 Cl-114* HCO3-19* AnGap-10
___ 11:51AM BLOOD Glucose-123* UreaN-7 Creat-0.4 Na-136 
K-3.5 Cl-109* HCO3-20* AnGap-11
___ 08:50AM BLOOD Glucose-132* UreaN-9 Creat-0.7 Na-135 
K-4.4 Cl-103 HCO3-23 AnGap-13
___ 01:20AM BLOOD ALT-17 AST-29 LD(LDH)-201 AlkPhos-65 
TotBili-0.3
___ 10:00PM BLOOD Calcium-8.9 Phos-2.9 Mg-2.0
___ 08:50AM BLOOD Calcium-8.9 Phos-3.7 Mg-2.1
___ 10:08AM BLOOD Glucose-115* Lactate-1.1 Na-139 K-3.8 
Cl-112

___: T-spine, L-spine Xrays: Interval development of a 
fracture through the left ___ rod at the same level of 
the previously noted fracture through the right  ___ rod. 


___: Chest Xray: 
1. Ill defined opacity in the right lung base is nonspecific, 
and could represent atelectasis, but early infection or 
aspiration are not excluded and clinical correlation 
recommended.  
2. Low lung volumes accentuating bibasilar bronchovascular 
crowding. 
3. Fractured ___ rods, better depicted on same-day spine 
radiographs. 

___ Chest Xray:
AP single view of the chest has been obtained with patient in 
semi-erect position. Comparison is made with the next preceding 
supine single view chest examination of ___. The 
patient is status post surgical revision of fractured ___ 
spine stabilization rods. On the next preceding chest 
examination of ___, a suspicious right basal density 
was identified, raising the possibility of beginning pulmonary 
infiltrate. 
  On today's examination, this right-sided basal density in 
supradiaphragmatic position is again noted and appears to have 
increased. It is compatible with a pneumonic infiltrate. In 
addition, we have now a hazy diffuse density on the lung base, 
raising the suspicion of some pleural effusion. It apparently is 
related to a most recent surgical intervention as a row of 
cutaneous metallic surgical clips can be identified in 
left-sided paraspinal position.  No evidence of pneumothorax or 
conclusive signs of new parenchymal pulmonary infiltrates on the 
left side. A previously described right internal jugular vein 
approach central venous line remains in unchanged position. The 
site of the ___ rod fracture is at the lower edge of the 
image field and has not undergone any significant positional 
change. 

___ Chest Xray:
Right lower lobe consolidation is less dense. Left lower lobe 
consolidation is unchanged. There is better aeration of the 
upper lobes bilaterally. Moderate left pleural effusion is 
probably unchanged allowing for different position of the 
patient. Right pleural effusion is small. Thoracolumbar hardware 
is noted. Multiple skin staples are seen. 

___ Chest Xray:
The post-surgical changes in the thoracolumbar spine are stable. 
There is slight interval decrease in left pleural effusion with 
minimal improvement of the left basal aeration. The patient is 
in minimal interstitial engorgement, also improved since the 
prior study. Small amount of right pleural fluid cannot be 
excluded. 

___ Chest Xray:
Comparison with the previous study of ___. A small left 
pleural effusion with underlying compressive atelectasis and/or 
consolidation persists. There is mild prominence of 
bronchovascular markings, as before.  The heart and mediastinal 
structures are unchanged. Post-surgical change with bilateral 
rods and pedicle screws is again noted in the thoracolumbar 
spine. No significant interval change.
 
Brief Hospital Course:
The patient was admitted to the ___ Spine Surgery Service and 
taken to the Operating Room for repair of broken spine implants 
without complication. For details please refer to the dictated 
operative notes. Her postoperative course was complicated by 
fever and postoperative delirium.  Below are the issues of her 
postoperative course by problem:  

1. Pain control: Given her history of extensive polypharmacy, 
Pain services were consulted for assistance managing poor 
postoperative pain control. Pain regimen initially included a 
ketamine infusion and dilaudid PCA, which was ultimately weaned 
to an oral regimen of oxycontin 20mg BID and oxycodone 30mg 
every 3 hours.  Of note, her regimen pre-operatively was 
oxycodone 30mg every 4 hours.  Due to her high narcotic 
requirements, she was also maintained on an aggressive bowel 
regimen and had normal bowel movements prior to discharge.  

2. Delirium: Postoperatively, she was noted to be disoriented 
and intermittently agitated, wandering into wrong rooms, 
reporting visual hallucinations, and expressing paranoid 
ideation that staff were stealing her belongings and wearing 
them outside her room.  A code purple was called when she 
attempted to leave AMA, and Psychiatric evaluation determined 
that she did not have the capacity to do so.  An extensive 
workup was unrevealing, and her mental status returned to 
baseline with simplification of her medications and good pain 
control.  Her delirium was attributed to poly-pharmacy 
interaction and not psychosis.  

3. Fevers: She had recurrent fevers postoperatively without 
symptoms of infection.  She was treated empirically for 
pneumonia due to an infiltrate seen on CXR, but follow up the 
next day showed near resolution, and as she did not have any 
clinical evidence of pneumonia, the antibiotics were 
discontinued.  She was also treated for a simple UTI, but her 
fevers persisted. She was transferred to the medical service and 
antibiotics were discontinued. An extensive workup was 
unremarkable, and her fevers were attributed to a reactive 
process involving the bone morphologic protein placed 
intraoperatively.  Prior to discharge, she had remained afebrile 
for greater than 24 hours, and a final chest xray and urinalysis 
were unremarkable.  Blood cultures are pending from this 
hospitalization but have shown no growth to date. These will be 
followed up by the discharging hospitalist.

On discharge she had met all postoperative milestones with her 
pain well-controlled on the prescribed oral regimen.  She was 
discharged with instructions to follow up with Dr. ___ 
postoperative care.  She was also given information to make a 
primary care appointment for long-term follow up of her health 
care and chronic pain medication issues. The patient was 
instructed that she needed to identify 1 provider to write her 
chronic opioid medications. Currently, this is Dr. ___ 
she recognizes this can only be temporary and she needs to find 
a primary care physician or pain specialist to take over this 
responsibility.
 
Medications on Admission:
Topiramate 100 mg QAM 150 QPM  
Protonix 40 BID  
Clonidine 0.1 TID  
Albuterol inh  
naproxen 500 BID  
Alprazolam 1 QID  
Flexeril 10 TID  
Diphenahydramine 100 QHS  
Baclofen 10 BID  
Oxycodone 30 q4-6  
Imitrex 6 mg SubQ  
 
Discharge Medications:
1. baclofen 10 mg Tablet Sig: One (1) Tablet PO twice a day.  
2. topiramate 100 mg Tablet Sig: One (1) Tablet PO QAM (once a 
day (in the morning)).  
3. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  
4. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
Two (2) Puff Inhalation Q6H (every 6 hours) as needed for 
wheezing.  
5. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
6. sumatriptan succinate 6 mg/0.5 mL Solution Sig: One (1)  
Subcutaneous X1 (ONE TIME) as needed for migraine.  
7. Clotrimazole-7 1 % Cream Sig: One (1) Appl Vaginal BID (2 
times a day) for 5 days.
Disp:*1 tube standard* Refills:*0*
8. oxycodone 15 mg Tablet Sig: ___ Tablets PO Every ___ hours as 
needed for Pain.
Disp:*90 Tablet(s)* Refills:*0*
9. topiramate 100 mg Tablet Sig: 1.5 Tablets PO QPM (once a day 
(in the evening)).  
10. senna 8.6 mg Tablet Sig: ___ Tablets PO BID (2 times a day).
Disp:*30 Tablet(s)* Refills:*2*
11. oxycodone 20 mg Tablet Extended Release 12 hr Sig: One (1) 
Tablet Extended Release 12 hr PO Q12H (every 12 hours).
Disp:*30 Tablet Extended Release 12 hr(s)* Refills:*0*
12. Xanax 1 mg Tablet Sig: One (1) Tablet PO four times a day.  
13. Tylenol Extra Strength 500 mg Tablet Sig: ___ Tablets PO 
every eight (8) hours as needed for pain: do not exceed 4000mg 
tylenol in 24 hours.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Pseudoarthrosis, T12-L1, L1-L2.
2. Possible pseudoarthrosis, T11-T12, T10-T11.
3. urinary tract infection
4. postoperative delirium

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You have undergone the following operations: Lumbar 
Decompression With Fusion and re-exploration, please see below 
for postoperative instructions of care.  

After your operations, you experienced difficulty with pain 
control and delirium, as well as a urinary tract infection.  For 
your urinary tract infection, you completed a course of 
antibiotics, you should follow up with a primary doctor if you 
develop more symptoms.  You were also found to have a yeast 
infection.  Your medications were adjusted in the following 
ways:

-ADDED Clotrimazole cream for yeast infection
-ADDED Colace and Senna 
-ADDED Oxycontin
-ADDED Tylenol available over the counter, do not exceed 4000mg 
daily.
-INCREASED dosing of Oxycodone as prescribed
-STOP taking Clonidine
-STOP taking Naproxen
-STOP taking Benadryl
-STOP taking Flexeril

*Take the rest of your medications as prescribed. 
*Do not take more than 4000mg of Tylenol in 24 hours.
*Do not drive while taking narcotics.
*Continue to take stool softeners while you are taking 
narcotics.

Immediately after the operation:  
- Activity: You should not lift anything greater than 10 lbs for 
2 weeks. You will be more comfortable if you do not sit or stand 
more than ~45 minutes without getting up and walking around.  
- ___/ Physical Therapy:  
o ___ times a day you should go for a walk for ___ minutes as 
part of your recovery. You can walk as much as you can tolerate. 
 
o Limit any kind of lifting.  
- Diet: Eat a normal healthy diet. You may have some 
constipation after surgery. You have been given medication to 
help with this issue.  
- Brace: You may have been given a brace. This brace is to be 
worn when you are walking. You may take it off when sitting in a 
chair or while lying in bed.  
- Wound Care: Remove the dressing in 2 days. If the incision is 
draining cover it with a new sterile dressing. If it is dry then 
you can leave the incision open to the air. Once the incision is 
completely dry (usually ___ days after the operation) you may 
take a shower. Do not soak the incision in a bath or pool. If 
the incision starts draining at anytime after surgery, do not 
get the incision wet. Cover it with a sterile dressing. Call the 
office.  
- You should resume taking your normal home medications.  
- You have also been given Additional Medications to control 
your pain. Please allow 72 hours for refill of narcotic 
prescriptions, so please plan ahead. You can either have them 
mailed to your home or pick them up at the clinic located on 
___. We are not allowed to call in or fax narcotic 
prescriptions (oxycontin, oxycodone, percocet) to your pharmacy. 
In addition, we are only allowed to write for pain medications 
for 90 days from the date of surgery.  
- Follow up:  
o Please Call the office and make an appointment for 2 weeks 
after the day of your operation if this has not been done 
already.  
o At the 2-week visit we will check your incision, take baseline 
X-rays and answer any questions. We may at that time start 
physical therapy.  
o We will then see you at 6 weeks from the day of the operation 
and at that time release you to full activity.  
Please call the office if you have a fever>101.5 degrees 
Fahrenheit and/or drainage from your wound.  
 
Followup Instructions:
___